US08258158B2
This material was made in analogy to example 1 from 4-fluoro-1-(1-methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonyl)-piperidine-4-carboxylic acid (0.176 g) and 4-trifluoromethoxy-aniline (0.087 g) to give the desired 4-fluoro-1-(1-methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonyl)-piperidine-4-carboxylic acid (4-trifluoromethoxy-phenyl)-amide (0.04 g) as a white solid. MS (ESI): 519.28 (MH+).

reactant | 4-fluoro-1-(1-methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonyl)-piperidine-4-carboxylic acid | 0.176 g | FC1(CCN(CC1)S(=O)(=O)C=1C(=NN(C1)C)C(F)(F)F)C(=O)O | C11H13F4N3O4S
reactant | 4-trifluoromethoxy-aniline | 0.087 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
product | 4-fluoro-1-(1-methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonyl)-piperidine-4-carboxylic acid (4-trifluoromethoxy-phenyl)-amide | 0.04 g | FC(OC1=CC=C(C=C1)NC(=O)C1(CCN(CC1)S(=O)(=O)C=1C(=NN(C1)C)C(F)(F)F)F)(F)F | C18H17F7N4O4S
